Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Cephalosporins / Carbapenem / hydrochlorothiazide
 
Attending: ___
 
Chief Complaint:
Acute Kidney Injury
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man with a history of CKD stage 4, diabetes on 
insulin, coronary artery disease, gout who presents with 
polyarticular joint pain and is found to have renal failure.

Pt is interviewed with phone interpreter. 

He presents to the ED for evaluation of L knee and R elbow pain, 
which he says started a few days ago. He has had no fevers or 
chills. He is able to walk on the knee and use the elbow. He 
denies trauma. He doesn't remember which medications he takes 
(unable to say if he has taken NSAIDS). Routine lab evaluation 
revealed creatinine 8.2 from 3.3 in ___ ___ records) and 2.5 
last year. 

He reports that he has had trouble sleeping at night and is 
tired during the day. He also reports his appetite has been 
poor. He says his urine output has been good. No change in bowel 
habits. No chest pain or dyspnea. 

He was seen in clinic for plan for access for HD, but declined 
to schedule surgery for fistula creation.

- In the ED, initial vitals were:
T 96.5 HR 52 BP 99/33 RR18 100% RA 

- Exam was notable for: "L knee is more tender than R knee. L 
knee is warm to touch. All joints are without erythema. "

- Labs were notable for:
Creatinine 8.2
BUN 149
K 5.8
P: 8.8
Bicarbonate 11
AGap=22
Hgb 11.2

- Studies were notable for:
Renal US
1. No evidence of renal stones or hydronephrosis demonstrated.
2. There is increased echogenicity of bilateral kidneys with 
loss
of corticomedullary differentiation which may represent medical
renal disease.

CXR:
IMPRESSION:  
No acute intrathoracic process. 

- The patient was given:
___ 17:49 PO OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB 
___ 23:25 PO Doxycycline Hyclate 100 mg  
___ 00:27 PO/NG Sodium Bicarbonate 650 mg 

- Renal was consulted
 - please obtain CXR
 - renal u/s pending
 - please add on urine lytes
 - no urgent indications for HD
 - if no concern for volume overload, can consider 3 amps NaHCO3 
(total 150meq) + D5W 1L IV, otherwise can start NaHCO3 650mg PO 
bid
 - renal consult will follow in AM
 - agree w/ admission to medicine"

 
Past Medical History:
- Gout - diagnosed on admission in ___, evaluated with joint 
tap
which showed monosodium urate crystals 
- h/o bacteremia MRSA ___
- CKD Cr 2s at baseline
- CAD (fixed inferior defect on stress MIBI) 
- T2DM 
- HLD 
- HTN
- Psoriasis
- Erectile Dysfunction 
 
Social History:
___
Family History:
Family history of diabetes and vascular disease, per records.
 
Physical Exam:
ADMISSION
=========
VITALS: ___ 0132 Temp: 97.6 PO BP: 129/72 HR: 63 RR: 17 O2
sat: 99% O2 delivery: RA FSBG: 133 
GENERAL: Alert and interactive. In no acute distress. Laying 
flat
comfortably
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM. 
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally. His L knee has a small effusion, full ROM and no 
erythema. Mildly warm. R elbow with no effusion, erythema or 
warmth.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE
=========
Vitals: Temp: 97.7 (Tm 98.8), BP: 165/76 (134-175/54-77), HR: 50 
(50-53), RR: 16 (___), O2 sat: 99% (96-99), O2 delivery: Ra, 
Wt: 189.59 lb/86 kg 
GENERAL: Alert and interactive. In no acute distress. Lying 
comfortably in bed.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.
EXTREMITIES: Nontender tophi along DIPs of hands. No joint 
swelling or tenderness. No peripheral edema
NEUROLOGIC: A&Ox3. CN2-12 intact. Moving all 4 limbs 
spontaneously and antigravity.
 
Pertinent Results:
ADMISSION
=========
___ 05:30PM   PLT COUNT-250
___ 05:30PM   NEUTS-60.0 LYMPHS-18.6* MONOS-9.4 EOS-6.8 
BASOS-1.0 IM ___ AbsNeut-5.06 AbsLymp-1.57 AbsMono-0.79 
AbsEos-0.57* AbsBaso-0.08
___ 05:30PM   WBC-8.4 RBC-4.02* HGB-11.2* HCT-32.6* MCV-81* 
MCH-27.9 MCHC-34.4 RDW-13.1 RDWSD-37.7
___ 05:30PM   CALCIUM-9.3 PHOSPHATE-8.8* MAGNESIUM-2.4
___ 05:30PM   estGFR-Using this
___ 05:30PM   GLUCOSE-153* UREA N-149* CREAT-8.2*# 
SODIUM-138 POTASSIUM-5.8* CHLORIDE-105 TOTAL CO2-11* ANION 
GAP-22*
___ 06:00PM URINE  MUCOUS-RARE*
___ 06:00PM URINE  RBC-7* WBC-8* BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 06:00PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-100* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR*
___ 06:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:42PM   K+-5.3

INTERVAL
========
___ 09:22AM BLOOD C3-158 C4-52*
___ 09:22AM BLOOD RheuFac-<10 ___
___ 03:08AM BLOOD CRP-65.9*
___ 07:30AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 07:05AM BLOOD ALT-37 AST-17 LD(LDH)-157 AlkPhos-116 
TotBili-0.5

DISCHARGE
=========
___ 07:00AM BLOOD WBC-9.6 RBC-3.66* Hgb-10.2* Hct-30.9* 
MCV-84 MCH-27.9 MCHC-33.0 RDW-12.4 RDWSD-37.8 Plt ___
___ 07:00AM BLOOD Glucose-157* UreaN-65* Creat-3.5* Na-143 
K-4.5 Cl-102 HCO3-28 AnGap-13

IMAGING/REPORTS
===============
___ Renal US
There is no hydronephrosis, definite stones, or worrisome masses 
bilaterally. Echogenic appearance of the renal cortex is 
concerning for chronic medical renal disease.  The right kidney 
measures 9.7 cm and the left kidney measures 12.3 cm. The 
bladder is mostly decompressed.
IMPRESSION: 
Echogenic appearance of the kidneys concerning for medical renal 
disease.  No hydronephrosis.  Limited evaluation of the bladder 
given decompressed state.

___ CXR:
PA and lateral views of the chest provided.  Low lung volumes.  
Lungs are clear. There is no focal consolidation, effusion, or 
pneumothorax.  There are no signs of congestion or edema.  The 
cardiomediastinal silhouette is normal. Imaged osseous 
structures are intact.  No free air below the right 
hemidiaphragm is seen.  Clips in the right upper quadrant noted.
IMPRESSION: 
No acute intrathoracic process.
 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a history of IDDM, CAD, gout 
who is found to have acute on chronic renal failure. Nephrology 
was consulted and this was thought to be due to a combination of 
pre-renal etiology from a recent illness on vacation versus AIN 
from unclear antibiotic/treatment regimen. Steroids for possible 
AIN were considered but held due to stable clinical status and 
his kidney function slowly improved with supportive care over 
the course of his hospitalization.

ACUTE/ACTIVE ISSUES
===================
# ___ on CKD
Last Cr 3.3 ___ (previously ~2s), up to 8.2 on admission. 
Suspect that he may have had an AIN given WBC casts and possible 
new medication exposure in the ___. There may 
also be a component of prerenal azotemia given improvement in Cr 
with IVF and relatively low urine Na. Uric acid nephropathy also 
possible given elevated serum urate but no crystals on light 
microscopy. ___, RF negative, Leptospira Ab pending on 
discharge. He was given bicarbonate and sevelamer for low 
bicarbonate and high phosphate on admission, but these were held 
on discharge as his renal function returned to its recent 
baseline.

#DM2
On home Insulin regimen, ISS. Having trouble getting a 
glucometer at home. Diabetes educator consulted, will provide 
glucometer and a small supply of test strips today, and also his 
home sliding scale was discontinued, he will follow up in ___ 
___ clinic for continued titration. 

CHRONIC/STABLE ISSUES
=====================
# LFT Abnormalities, resolved
Cholestatic predominant pattern of liver injury on admission. 
DDx includes drug reaction (in setting of ?AIN) or congestive 
hepatopathy given moderate hypervolemia on admission. No focal 
tenderness on exam c/w cholecystitis. LFTs resolved without 
intervention. Found to be Hep B non-immune.

# Polyarticular joint pain (L knee, R elbow)
# Gout
Prior flare in ___, treated with short prednisone taper. Does 
not appear to have an acute gout flare on exam. 
- APAP 650mg q8h PRN
- Held colchicine on discharge due to still slightly elevated 
renal function and already on allopurinol.

# CAD: Continued home ASA and statin.

# HTN: 
- Continued home amlodipine, carvedilol, and atenolol
- Holding lisinopril until PCP/Nephrology follow up

# Anemia: at baseline

TRANSITIONAL ISSUES
===================
[] Would repeat BMP within one week to ensure stability / return 
to baseline.
[] Consider restarting lisinopril at follow up, also consider 
increasing this and decreasing/discontinuing carvedilol and 
atenolol give some episodes of sinus bradycardia while 
inpatient.
[] Could restart daily colchicine as long as renal function 
returns to baseline / remains stable, but would consider holding 
it given already on allopurinol and no recent gout flairs.
[] Should have hepatitis B vaccination as was found to be 
non-immune with no prior exposure this admission.
[] See by diabetes educator for re-education about glucometer 
and pens. ISS discontinued due to concern for 
frailty/hypoglycemic events at home. He should continue to 
follow with them in clinic for insulin titration.

# CODE: Full, presumed
# CONTACT: 
Proxy name: ___ 
Relationship: daughter Phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
4. Simvastatin 20 mg PO QPM 
5. Omeprazole 20 mg PO DAILY 
6. Glargine 26 Units Bedtime
Humalog 4 Units Breakfast
Humalog 4 Units Lunch
Humalog 4 Units Dinner
7. Furosemide 20 mg PO DAILY 
8. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
9. Calcitriol 0.25 mcg PO DAILY 
10. Aspirin 325 mg PO DAILY 
11. Allopurinol ___ mg PO EVERY OTHER DAY 
12. Lisinopril 2.5 mg PO DAILY 
13. CARVedilol 3.125 mg PO BID 
14. Fish Oil (Omega 3) 1000 mg PO BID 
15. Colchicine 0.3 mg PO ONCE 

 
Discharge Medications:
1.  Glargine 20 Units Bedtime
Humalog 2 Units Breakfast
Humalog 2 Units Lunch
Humalog 2 Units Dinner 
2.  Allopurinol ___ mg PO DAILY  
3.  amLODIPine 10 mg PO DAILY  
4.  Aspirin 325 mg PO DAILY  
5.  Atenolol 50 mg PO DAILY  
6.  Calcitriol 0.25 mcg PO DAILY  
7.  CARVedilol 3.125 mg PO BID  
8.  Fish Oil (Omega 3) 1000 mg PO BID  
9.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
10.  Furosemide 20 mg PO DAILY  
11.  Omeprazole 20 mg PO DAILY  
12.  Simvastatin 20 mg PO QPM  
13.  Vitamin D ___ UNIT PO 1X/WEEK (MO)  
14. HELD- Colchicine 0.3 mg PO ONCE  This medication was held. 
Do not restart Colchicine until Talking to your PCP ___ 
Nephrologist
15. HELD- Lisinopril 2.5 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until talking to your PCP ___ 
Nephrologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute renal failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (___ 
or cane).

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Mr. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- Your kidneys were not working well, and your potassium level 
was too high.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We gave you medicines to lower the potassium and make your 
kidneys work better. You were also seen by the kidney doctors.

- Your kidney function slowly returned to normal with supportive 
care.

- You were seen by our physical therapists who recommended a 
walker for you to use to maintain better balance.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___